US04826990
1,1,1-Trifluoro-N-[3-[(2-phenyl-4-thiazolyl)methoxy]phenyl]methanesulfonamide
A solution of 6.0 g (0.0213 mol) of 3-[(2-phenyl-4-thiazolyl)methoxy]benzenamine and 2.6 g (0.025 mol) of triethylamine in 150 ml of methylene chloride is cooled to -78° C. A solution of 6.6 g (0.0234 mol) of trifluoromethanesulfonic anhydride in 50 ml of methylene chloride is added from a dropping funnel and the mixture is allowed to warm to room temperature. The solution is concentrated in vacuo and the residue is dissolved in 300 ml of ethyl acetate/300 ml of water. The layers are separated and the ethyl acetate solution is washed with brine, dried over anhydrous magnesium sulfate, and concentrated to an oil (11 g). The oil is chromatographed with ethyl acetate/hexane as eluent. Fraction 2 is concentrated to an oil (5.4 g), which is triturated with ethyl acetate/hexane, 9/1 (v/v) to obtain 4.0 g (45%) of crystals, m.p. 113°-115° C.

reactant | 3-[(2-phenyl-4-thiazolyl)methoxy]benzenamine | 0.0213 mol, 6.0 g | C1(=CC=CC=C1)C=1SC=C(N1)COC=1C=C(C=CC1)N | C16H14N2OS
reactant | triethylamine | 0.025 mol, 2.6 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 0.0234 mol, 6.6 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1,1,1-Trifluoro-N-[3-[(2-phenyl-4-thiazolyl)methoxy]phenyl]methanesulfonamide | 4.0 g, 45% | FC(S(=O)(=O)NC1=CC(=CC=C1)OCC=1N=C(SC1)C1=CC=CC=C1)(F)F | C17H13F3N2O3S2
